US04026936
3-(3-Nitro-4-aminobenzoyl)pyridine
A suspension of 63 g. (0.24 mol) of 3-(3-nitro-4-chlorobenzoyl)pyridine in 3 liters of a saturated solution of ammonia in ethanol was autoclaved at 100° C. for 24 hours. The mixture was concentrated in vacuo and the resulting residue dissolved in 1.5 liters of warm 5N HCl. The solution was cooled to room temperature and neutralized with concentrated ammonium hydroxide. The resulting product was collected as yellow-orange prisms, mp. 229° -230° C. (dimethylformamide-2-propanol).

reactant | 3-(3-nitro-4-chlorobenzoyl)pyridine | 0.24 mol | [N+](=O)([O-])C=1C=C(C(=O)C=2C=NC=CC2)C=CC1Cl | C12H7ClN2O3
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 3-(3-Nitro-4-aminobenzoyl)pyridine | [N+](=O)([O-])C=1C=C(C(=O)C=2C=NC=CC2)C=CC1N | C12H9N3O3
